US08084478B2
ii) Ethyl cis-4-(4-aminophenoxy)cyclohexanecarboxylate
Palladium (10 wt. %) on carbon (200 mg) was added in one portion to a solution of ethyl 4-(4-nitrophenoxy)cyclohexanecarboxylate (6.95 g, 23.7 mmol) in EtOH (200 mL) and the reaction mixture was stirred under a hydrogen atmosphere at ambient temperature for 16 h. The reaction mixture was filtered and concentrated in vacuo to leave the title compound as a yellow oil (6.24 g, 100%).

reactant | ethyl 4-(4-nitrophenoxy)cyclohexanecarboxylate | 23.7 mmol, 6.95 g | [N+](=O)([O-])C1=CC=C(OC2CCC(CC2)C(=O)OCC)C=C1 | C15H19NO5
solvent | EtOH | 200 mL | CCO | C2H6O
catalyst | Palladium | [Pd] | Pd
product | Ethyl cis-4-(4-aminophenoxy)cyclohexanecarboxylate | 6.24 g, 100% | NC1=CC=C(O[C@H]2CC[C@H](CC2)C(=O)OCC)C=C1 | C15H21NO3
